US08445487B2
2-(2-Chloro-6-morpholino-9H-purin-8-yl)propan-2-ol 100 mg was treated with bromobutane via General Procedure C to give crude intermediate 2-(9-butyl-2-chloro-6-morpholino-9H-purin-8-yl)propan-2-ol which was treated with 2-aminopyrimidine-5-boronic acid, pinacol ester via General Procedure A and was purified via reverse phase HPLC to give 55 mg of 103 as a white solid. MS (Q1) 413.3 (M)+.

reactant | 2-(2-Chloro-6-morpholino-9H-purin-8-yl)propan-2-ol | 100 mg | ClC1=NC(=C2N=C(NC2=N1)C(C)(C)O)N1CCOCC1 | C12H16ClN5O2
reactant | bromobutane | BrCCCC | C4H9Br
product | 2-(9-butyl-2-chloro-6-morpholino-9H-purin-8-yl)propan-2-ol | C(CCC)N1C2=NC(=NC(=C2N=C1C(C)(C)O)N1CCOCC1)Cl | C16H24ClN5O2
